US07211577B2
Preparation of 4-diethylaminomethyl-6-(2,4-difluorophenyl)-2-isobutyl-2H-pyridazin-3-one
Following the procedure of Example 9(4), 6-(2,4-difluorophenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and diethylamine were reacted to yield the title compound as a pale yellow oil (yield: quantitative)

reactant | 6-(2,4-difluorophenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC1=C(C=CC(=C1)F)C=1C=C(C(N(N1)CC(C)C)=O)COS(=O)(=O)C | C16H18F2N2O4S
reactant | diethylamine | C(C)NCC | C4H11N
product | 4-diethylaminomethyl-6-(2,4-difluorophenyl)-2-isobutyl-2H-pyridazin-3-one | yield: quantitative | C(C)N(CC)CC=1C(N(N=C(C1)C1=C(C=C(C=C1)F)F)CC(C)C)=O | C19H25F2N3O
